US05990101
d) 3-allyloxycarbonylaminoimidazo[5,1-b]thiazole
A 6.4 ml portion of phosphorus oxychloride was added to a suspension obtained by adding 17 ml of dry toluene to 3.408 g of 4-allyloxycarbonylamino-2-(formylamino)methylthiazole, and the mixture was then stirred at an oil temperature of 100° C. for 45 minutes. The solvent was evaporated under reduced pressure, and to the resulting residue, 200 ml of dichloromethane and 100 ml of 0.1N sodium hydroxide were added. The solution was adjusted to pH 8.0 with a 2N aqueous sodium hydroxide solution under stirring. After the removal of insolubles by filtration, the organic layer was separated from the filtrate, and it was combined with a liquid extracted from the aqueous layer with 100 ml of dichloromethane, dried (magnesium sulfate), and then filtered. Further, the solvent was evaporated under reduced pressure to obtain an ocherous powder, and this powder was then purified by a silica gel column chromatograph to obtain 2.390 g of the title compound as a light orange powder.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-allyloxycarbonylamino-2-(formylamino)methylthiazole | 3.408 g | C(C=C)OC(=O)NC=1N=C(SC1)CNC=O | C9H11N3O3S
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
product | 3-allyloxycarbonylaminoimidazo[5,1-b]thiazole | 2.390 g | C(C=C)OC(=O)NC=1N2C(SC1)=CN=C2 | C9H9N3O2S
